US06743802B2
To a solution of 3-ethynylpyridine in methylene chloride (5 mL/mmol) at room temperature was added m-chloroperoxybenzoic acid (m-CPBA, 70% purity, 1.2 eq) and the resulting mixture was stirred for 2 hours. A further amount of m-CPBA was added (0.25 eq) and stirring was continued for 1 hour. Calcium hydroxide was added (2 eq) and after 15 minutes the mixture was filtered through celite and the filtrate was evaporated. The solid residue was stirred in ether for 3 hours and filtered to afford the 3-ethynylpyridine N-oxide compound as a white solid.

reactant | 3-ethynylpyridine | C(#C)C=1C=NC=CC1 | C7H5N
reactant | m-chloroperoxybenzoic acid | 1.2 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Calcium hydroxide | [OH-].[Ca+2].[OH-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-ethynylpyridine N-oxide | C(#C)C=1C=[N+](C=CC1)[O-] | C7H5NO
